US05002585
Preparation of 2,4-dinitro 1,3,5-triethoxybenzene
A mixture comprising 0.18 mole (50 g) of 2,4-dinitro 1,3,5-trichlorobenzene and 250 ml of dioxane are heated at 70° C. 0.64 mole (219.9 g) of sodium ethylate in solution at a concentration of 20% in ethanol are then added while agitating. After the end of the addition the agitation is continued two more hours at 70° C. The reaction mixture is cooled and diluted with iced water. The expected product crystallizes and is separated by filtration. After drying it is recrystallized from ethanol. It melts at 105° C.

reactant | 2,4-dinitro 1,3,5-trichlorobenzene | 0.18 mole, 50 g | [N+](=O)([O-])C1=C(C=C(C(=C1Cl)[N+](=O)[O-])Cl)Cl | C6HCl3N2O4
reactant | dioxane | 250 ml | O1CCOCC1 | C4H8O2
reactant | sodium ethylate | 0.64 mole, 219.9 g | CC[O-].[Na+]
reactant | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 2,4-dinitro 1,3,5-triethoxybenzene | [N+](=O)([O-])C1=C(C=C(C(=C1OCC)[N+](=O)[O-])OCC)OCC | C12H16N2O7
